2106-01-28 07:36:00 Physician Resident Progress Note
Chief Complaint: 59F with h/o SAH s/p VP shunt and aneurysm clips
   presents with HA, unsteadiness found to have multiple hemorrhagic brain
   masses likely metastatic lung CA
   [**21**] Hour Events:
   No major events O/N
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Folic Acid
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-1-28**] 02:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-1-28**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 88 (80 - 92) bpm
   BP: 143/69(98){138/65(93) - 160/76(109)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46 kg (admission): 46 kg
    CVP: 4 (3 - 6)mmHg
   Total In:
                                                                    390 mL
   PO:
   TF:
   IVF:
                                                                    390 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    575 mL
   Urine:
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -185 mL
   Respiratory support
   SpO2: 99%
   ABG: 7.43/35/134/24/Units: mEq/L
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   234 K/uL
   9.8 g/dL
   177 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.4 mEq/L
   14 mg/dL
   103 mEq/L
   143 mEq/L
   30.1 %
   8.2 K/uL
        [image002.jpg]
   Micro
   [**1-26**] blood cx NGTD, [**1-25**] urine >100,000 pansensitive E. coli
                             [**2106-1-24**]  08:30 PM
                             [**2106-1-24**]  08:50 PM
                             [**2106-1-25**]  02:47 AM
                             [**2106-1-25**]  08:54 AM
                             [**2106-1-26**]  03:12 AM
                             [**2106-1-27**]  04:13 AM
                             [**2106-1-27**]  11:26 AM
                             [**2106-1-27**]  01:50 PM
                             [**2106-1-27**]  04:31 PM
                             [**2106-1-28**]  02:37 AM
   WBC
   18.8
   16.0
   16.8
   8.2
   Hct
   32.6
   31.6
   31.6
   30.1
   Plt
   265
   244
   242
   234
   Cr
   0.5
   0.6
   0.6
   0.4
   TropT
   0.14
   0.14
   TCO2
   28
   22
   26
   24
   Glucose
   141
   196
   139
   177
   Other labs: PT / PTT / INR:11.4/27.0/0.9, CK / CKMB /
   Troponin-T:137/11/0.14, ALT / AST:38/38, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:19/10, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
 SUBARACHNOID HEMORRHAGE (SAH)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Cerebral edema
 LYMPHADENOPATHY (ENLARGEMENT OF LYMPH NODES, LAD)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   # ICH with resultant seizure: Patient with metastatic lesions to the
   brain with hemorrhagic transformation, with associated seizures. She
   has cerebral edema requiring mannitol gtt and IV decadron.
   -Will continue dilantin for seizure prophylaxis. Check dilantin level.
   -Seizure precautions
   -Appreciate neurology recs.
   -HOB>30 degrees
   -Monitor pCO2
 goal <40
   -Keep SBPs between 120
 140. Give IV lopressor to maintain SBPs in
   this range; will start gtt if unable to control with prn boluses.
   -Continue mannitol; hold for serum osm > 320 or Na > 150; will discuss
   with neurosurgery in AM
   -Active type and screen; avoid all anticoagulants including heparin
   products
   -Continue decadron for now
   -Appreciate neurosurgery recs
   -Will go to XRT tomorrow for whole brain irradiation
   .
   #. Metastatic CNS lesions of unknown primary. Likely small cell lung
   cancer given hx smoking and mediastinal LAD seen on CT torso. MRI shows
   multiple hemorrhagic lesions with mass effect on fourth ventricle, but
   without evidence of midline shift.
   -Will f/u pathology from LN excision
   -Going for whole brain XRT in AM.
   -Continue decadron for now as above.
   .
   # Respiratory Failure: Intubated for airway protection in the setting
   of seizure in the ED. Now extubated today and noted to inspiratory
   stridor. Received racemic epinephrine. Currently doing well.
   -Will monitor respiratory status; may need re-intubation
   .
   # NSTEMI. Patient with elevated cardiac enzymes in the setting of
   demand from acute illness. Patient has a hx DM, HTN, CAD. Cardiology
   evaluated patient. Echo performed shows EF 40% with apical akinesis.
   -Continue statin
   -Add lopressor.
   -Will monitor on telemetry
   -No anticoagulation in the setting of hemorrhagic metastases.
   .
   # UTI. Urine culture from [**1-25**] growing pansensitive E. coli.
   -Will continue treatment with ciprofloxacin for total 7 day course.
   .
   # Hyperlipidemia. On statin.
   .
   # DM.
   -FSQID, ISS. Will monitor in the setting of critical illness to keep
   blood sugars <150.
   .
   # Anemia.  Stable. Likely anemia of chronic inflammation.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-1-28**] 01:22 AM
   Multi Lumen - [**2106-1-28**] 01:24 AM
   16 Gauge - [**2106-1-28**] 01:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2106-01-28 14:57:00 Physician Attending Progress Note
Chief Complaint: altered mental status (respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2106-1-28**] 01:22 AM
   Recieved pt from SICU B with arterial line in place...unknown date of
   placement.
 MULTI LUMEN - START [**2106-1-28**] 01:24 AM
   R SC TLCL placed in SICU B prior to admission in M/[**Hospital 88**]
   Transferred from West to MlCU East for easier access to XRT
   No major clinical events
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Folic Acid
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-1-28**] 12:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-1-28**] 08:20 AM
   Other medications:
   see [**Month (only) **] (reviewed on rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-28**] 02:57 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 104 (80 - 104) bpm
   BP: 151/74(103){132/64(91) - 160/104(201)} mmHg
   RR: 15 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46 kg (admission): 46 kg
   CVP: 7 (3 - 7)mmHg
   Total In:
                                                                    835 mL
   PO:
   TF:
   IVF:
                                                                    835 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,335 mL
   Urine:
                                                                  1,335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                             incomplete due to transfer mL
                                                                   -500 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.43/35/134/28/Units: mEq/L
   Physical Examination
   General Appearance: Thin, frail; appears older than stated age
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : basilar,
   scant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, attentional status waxes and wanes; no lateralizing signs
   Labs / Radiology
   9.8 g/dL
   234 K/uL
   100 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.1 mEq/L
   14 mg/dL
   104 mEq/L
   142 mEq/L
   30.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2106-1-24**]  08:50 PM
                             [**2106-1-25**]  02:47 AM
                             [**2106-1-25**]  08:54 AM
                             [**2106-1-26**]  03:12 AM
                             [**2106-1-27**]  04:13 AM
                             [**2106-1-27**]  11:26 AM
                             [**2106-1-27**]  01:50 PM
                             [**2106-1-27**]  04:31 PM
                             [**2106-1-28**]  02:37 AM
                             [**2106-1-28**]  08:53 AM
   WBC
   18.8
   16.0
   16.8
   8.2
   Hct
   32.6
   31.6
   31.6
   30.1
   Plt
   265
   244
   242
   234
   Cr
   0.5
   0.6
   0.6
   0.4
   TropT
   0.14
   TCO2
   28
   22
   26
   24
   Glucose
   141
   196
   139
   177
   100
   Other labs: PT / PTT / INR:11.4/27.0/0.9, CK / CKMB /
   Troponin-T:137/11/0.14, ALT / AST:38/38, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:19/10, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.6 mg/dL
   Fluid analysis / Other labs: pathology is still pending
   Imaging: MRI and CCT reviewed
   Assessment and Plan
   79 year-old woman with what is most likely disseminated malignancy
   (?SCLC) ,complicated by intracranial hemorrhage, presumptive increased
   intracrI.
 CANCER (MALIGNANT NEOPLASM)
   Differential is broad, but small cell lung cancer is probably most
   likely. we are awaiting pathology results, and will go ahead and
   consult medical oncology at this point.
   We will plan for brain irradiation today.
 SUBARACHNOID HEMORRHAGE (SAH)with presumptive inceased ICP.
   -manifol and daamethasore as per neurosurg
   hold mannito( if Osm>320 or sodium > about 152
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   on AEDs
    STRIDOR
   Resolved. Review of CT scan shows bulky disease in mediastinum with
   tracheal narrowing. Follow respiratory status closely. Currently
   maintaining adequate O2 sats.
    NSTEMl
   -doubt unstable plaque
   -on beta blocker
   -no antiplatelets or anticoagulation given the brain mets
   4. Elevated cardiac enzymes
   Elevated at admission, trended down. Most likely demand ischemia,
   NSTEMI possible. No antiplatelet/anticoagulation given cerebral mets.
   Continue beta blocker as BP tolerates, continue statin.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-1-28**] 01:22 AM
   Multi Lumen - [**2106-1-28**] 01:24 AM
   16 Gauge - [**2106-1-28**] 01:26 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2106-01-29 07:08:00 Physician Resident Progress Note
Chief Complaint: 59F with multiple hemorrhagic brain masses suspected
   lung CA primary
   24 Hour Events:
   Had whole brain XRT
   Had head CT per neuro req, no interval change
   Na and serum osm inched up during day but did not reach threshold so
   continued mannitol
   Subjective: Denies pain
   Allergies:
   Folic Acid Hives;
   Antibiotics:
   Ciprofloxacin 400mg IV BID day 4
   Other medications:
   Dexamethasone 4mg IV q6
   Mannitol 25g IV q6
   Metoprolol 5mg IV q6
   Lipitor
   famotidine
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-1-29**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 99 (85 - 108) bpm
   BP: 150/73(102){106/54(74) - 169/104(128)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46 kg (admission): 46 kg
             Total In:
                                                                  1,180 mL
                                                                    395 mL
   PO:
             TF:
   IVF:
                                                                  1,180 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    900 mL
   Urine:
                                                                  2,485 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,305 mL
                                                                   -505 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands (open eyes, squeeze hands
   bilaterally), Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed, brisk symmetric DTRs. Attention variable.
   Labs / Radiology
   299 K/uL
   11.0 g/dL
   156 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.2 mEq/L
   12 mg/dL
   103 mEq/L
   143 mEq/L
   33.1 %
   8.2 K/uL
        [image002.jpg]
   Micro [**1-26**] blood cx NGTD, [**1-25**] urine >100,000 E.coli
   [**1-28**] CT head: no change from prior
   Lymph node path pending
                             [**2106-1-25**]  02:47 AM
                             [**2106-1-25**]  08:54 AM
                             [**2106-1-26**]  03:12 AM
                             [**2106-1-27**]  04:13 AM
                             [**2106-1-27**]  11:26 AM
                             [**2106-1-27**]  01:50 PM
                             [**2106-1-27**]  04:31 PM
                             [**2106-1-28**]  02:37 AM
                             [**2106-1-28**]  08:53 AM
                             [**2106-1-29**]  06:05 AM
   WBC
   18.8
   16.0
   16.8
   8.2
   8.2
   Hct
   32.6
   31.6
   31.6
   30.1
   33.1
   Plt
   265
   244
   242
   234
   299
   Cr
   0.5
   0.6
   0.6
   0.4
   0.5
   TropT
   0.14
   TCO2
   22
   26
   24
   Glucose
   141
   196
   139
   177
   100
   156
   Other labs: PT / PTT / INR:11.4/27.0/0.9, CK / CKMB /
   Troponin-T:137/11/0.14, ALT / AST:38/38, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:19/10, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   1. Hemorrhagic brain mets, cerebral edema, ?h/o seizure
   Likely mets from lung CA, although awaiting pathology report from lymph
   node biopsy. CT head [**1-28**] without significant change, no worsening of
   edema. Now s/p 2nd (this AM) of 10 planned WBI treatments.
   --Appreciate neurology and neurosurgery recommendations.
   --Target SBP 120-140 (treat with IV lopressor as required to maintain
   in this range), keep PCO2<40, elevate head of bed to 30 degrees to
   minimize increase in ICP
   --Continue mannitol, hold Na>152 and serum Osm >320. Check Na, Osm q6
   hours for now. D/w neuro whether mannitol still required as in setting
   of radiation could lead to increased cerebral edema.
   --Continue steroids
   --Continue dilantin for seizure ppx, check trough [**1-30**], continue
   seizure precautions.
   --Contact family for further information regarding baseline mental
   status
   2. Lung mass
   Suspect small cell lung cancer but await pathology.
   Consult oncology, palliative care and social work consults pending
   pathology report.
   3. Stridor
   Resolved. Tx with racemic epi post extubation. Review of CT scan shows
   bulky disease in mediastinum with tracheal narrowing. Follow
   respiratory status closely. Maintaining adequate O2 sats.
   4. Elevated cardiac enzymes at admission
   Elevated at admission, trended down. Most likely demand ischemia,
   NSTEMI possible. No antiplatelet/anticoagulation given cerebral mets.
   Continue beta blocker as BP tolerates, continue statin.
   Repeat EKG today ?of ST changes on monitor. If new ischemia would
   medically manage, patient would be high risk for PCI and is not a
   surgical candidate.
   5. UTI
   Patient has foley, consider D/C when mannitol discontinued. Treat with
   ampicillin complete 2 week course (shorter if foley can be
   discontinued). Change from quinolone given risk of lowering seizure
   threshold with quinolone.
   6. DM
   Continue insulin sliding scale, keep glucose<150
   ICU Care
   Nutrition:  Place NGT today in anticipation of tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-1-28**] 01:22 AM   D/C arterial line and central
   line today
   Multi Lumen - [**2106-1-28**] 01:24 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:  n/a
   Communication:  with sister
   [**Name (NI) 66**] status: Full code
   Disposition: call out to floor
   ------ Protected Section ------
   Critical Care Staff Addendum
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan, and would add/emphasize:
   Brain metastases/ICH -- Ms. [**Known lastname 886**] has tolerated her initial round of
   brain irradiation without apparent complications.  We will discuss the
   course of mannitol with neurology, but suspect that we should begin to
   taper or discontinue it.  Keep therapeutic on AED.
   Stridor -- has resolved.
   Malignancy --  We are awaiting pathology on her lymph node, but suspect
   small cell lung cancer.  Will consult oncology once pathology is back.
   Nutrition
 place NG tube today
   UTI
 convert to ampicillin since quinolone may increase seizure risk.
   Other issues per Dr. [**Last Name (STitle) 436**]
s note.  She is stable for transfer out
   of ICU.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2106-1-29**] 07:55 PM ------

2106-01-30 07:58:00 Physician Resident Progress Note
Chief Complaint: 59F with multiple hemorrhagic CNS mets and new dx of
   small cell lung CA
   [**21**] Hour Events:
   EKG with ischemic changes, but CEs down from prior, ?evolution of prior
   ischemic event
   NG tube placed but patient removed despite restraints
   Mannitol taper started per neurosurgery
   Pathology confirmed small cell carcinoma
   Seen by palliative care, but family not present
   Allergies:
   Folic Acid
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-1-29**] 12:00 AM
   Ampicillin - [**2106-1-30**] 05:57 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2106-1-29**] 12:00 PM
   Metoprolol - [**2106-1-29**] 12:14 PM
   Famotidine (Pepcid) - [**2106-1-29**] 07:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-30**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 103 (82 - 104) bpm
   BP: 137/54(74){104/50(66) - 141/75(89)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46 kg (admission): 49.9 kg
   Height: 61 Inch
    CVP: 1 (1 - 1)mmHg
   Total In:
                                                                  1,548 mL
                                                                    447 mL
   PO:
   TF:
   IVF:
                                                                  1,548 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                  1,010 mL
   Urine:
                                                                  2,050 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -502 mL
                                                                   -563 mL
   Respiratory support
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   309 K/uL
   11.0 g/dL
   109 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   14 mg/dL
   107 mEq/L
   147 mEq/L
   31.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2106-1-27**]  11:26 AM
                             [**2106-1-27**]  01:50 PM
                             [**2106-1-27**]  04:31 PM
                             [**2106-1-28**]  02:37 AM
                             [**2106-1-28**]  08:53 AM
                             [**2106-1-29**]  06:05 AM
                             [**2106-1-29**]  09:51 AM
                             [**2106-1-29**]  04:56 PM
                             [**2106-1-29**]  11:01 PM
                             [**2106-1-30**]  05:45 AM
   WBC
   8.2
   8.2
   7.7
   Hct
   30.1
   33.1
   31.7
   Plt
   [**Telephone/Fax (3) 931**]
   Cr
   0.4
   0.5
   0.5
   TropT
   0.02
   0.02
   0.02
   TCO2
   22
   26
   24
   Glucose
   177
   100
   156
   109
   Other labs: PT / PTT / INR:11.4/27.0/0.9, CK / CKMB /
   Troponin-T:101/5/0.02, ALT / AST:38/38, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:19/10, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   1. Hemorrhagic brain mets, cerebral edema, ?h/o seizure
   Likely mets from lung CA, although awaiting pathology report from lymph
   node biopsy. CT head [**1-28**] without significant change, no worsening of
   edema. Now s/p 2nd (this AM) of 10 planned WBI treatments.
   --Appreciate neurology and neurosurgery recommendations.
   --Target SBP 120-140 (treat with IV lopressor as required to maintain
   in this range), keep PCO2<40, elevate head of bed to 30 degrees to
   minimize increase in ICP
   --Continue mannitol, hold Na>152 and serum Osm >320. Check Na, Osm q6
   hours for now. D/w neuro whether mannitol still required as in setting
   of radiation could lead to increased cerebral edema.
   --Continue steroids
   --Continue dilantin for seizure ppx, check trough [**1-30**], continue
   seizure precautions.
   --Contact family for further information regarding baseline mental
   status
   2. Lung mass
   Suspect small cell lung cancer but await pathology.
   Consult oncology, palliative care and social work consults pending
   pathology report.
   3. Stridor
   Resolved. Tx with racemic epi post extubation. Review of CT scan shows
   bulky disease in mediastinum with tracheal narrowing. Follow
   respiratory status closely. Maintaining adequate O2 sats.
   4. Elevated cardiac enzymes at admission
   Elevated at admission, trended down. Most likely demand ischemia,
   NSTEMI possible. No antiplatelet/anticoagulation given cerebral mets.
   Continue beta blocker as BP tolerates, continue statin.
   Repeat EKG today ?of ST changes on monitor. If new ischemia would
   medically manage, patient would be high risk for PCI and is not a
   surgical candidate.
   5. UTI
   Patient has foley, consider D/C when mannitol discontinued. Treat with
   ampicillin complete 2 week course (shorter if foley can be
   discontinued). Change from quinolone given risk of lowering seizure
   threshold with quinolone.
   6. DM
   Continue insulin sliding scale, keep glucose<150
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-1-28**] 01:24 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2106-01-30 11:27:00 Physician Attending Progress Note
Chief Complaint: s/p seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2106-1-29**] 10:01 AM
 ARTERIAL LINE - STOP [**2106-1-29**] 12:53 PM
   Recieved pt from SICU B with arterial line in place...unknown date of
   placement.
   NGT placed but pt pulled it out.
   Path returned as small cell lung Ca.
                               Patient unable to provide history: Encephalopathy
   Allergies:
   Folic Acid
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-1-29**] 12:00 AM
   Ampicillin - [**2106-1-30**] 05:57 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2106-1-29**] 12:00 PM
   Metoprolol - [**2106-1-29**] 12:14 PM
   Famotidine (Pepcid) - [**2106-1-30**] 08:00 AM
   Other medications:
   atorvastatin, decadron 4 q6h, dilantin 100 mg q8h, mannitol 25 IV q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-30**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 105 (82 - 112) bpm
   BP: 134/64(75){104/43(64) - 141/75(89)} mmHg
   RR: 19 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46 kg (admission): 49.9 kg
   Height: 61 Inch
             Total In:
                                                                  1,548 mL
                                                                  1,030 mL
   PO:
             TF:
   IVF:
                                                                  1,548 mL
                                                                  1,030 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                  1,130 mL
   Urine:
                                                                  2,050 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -502 mL
                                                                   -100 mL
   Respiratory support
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): not oriented, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   309 K/uL
   109 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   14 mg/dL
   107 mEq/L
   145 mEq/L
   31.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2106-1-27**]  11:26 AM
                             [**2106-1-27**]  01:50 PM
                             [**2106-1-27**]  04:31 PM
                             [**2106-1-28**]  02:37 AM
                             [**2106-1-28**]  08:53 AM
                             [**2106-1-29**]  06:05 AM
                             [**2106-1-29**]  09:51 AM
                             [**2106-1-29**]  04:56 PM
                             [**2106-1-29**]  11:01 PM
                             [**2106-1-30**]  05:45 AM
   WBC
   8.2
   8.2
   7.7
   Hct
   30.1
   33.1
   31.7
   Plt
   [**Telephone/Fax (3) 931**]
   Cr
   0.4
   0.5
   0.5
   TropT
   0.02
   0.02
   0.02
   TCO2
   22
   26
   24
   Glucose
   177
   100
   156
   109
   Other labs: PT / PTT / INR:11.4/27.0/0.9, CK / CKMB /
   Troponin-T:101/5/0.02, ALT / AST:38/38, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:19/10, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   ECG: ECG yesterday with diffuse TWI
   Assessment and Plan
   59 y/o F with newly diagnosed extensive SCLC and brain mets. Mental
   status much improved today.
 URINARY TRACT INFECTION (UTI): On ampicillin.
 CANCER (MALIGNANT NEOPLASM), SMALL CELL:  Getting XRT to brain.
   Continue decadron while getting XRT.  Oncology following.
 SUBARACHNOID HEMORRHAGE (SAH): continue neuro checks.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Cerebral edema:  Weaning mannitol per neurosurg/neuro recs.
 LYMPHADENOPATHY (ENLARGEMENT OF LYMPH NODES, LAD)
 SEIZURE, WITHOUT STATUS EPILEPTICUS:  F/u dilantin level.  Will need
   to adjust for albumin.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI):  TWI may be due to
   cerebral edema.  Cardiac enzymes negative this time.  Cont statin,
   metoprolol.  No anticoagulation given SAH.
   ICU Care
   Nutrition:
   Comments: attempt po today given improved mental status
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2106-1-28**] 01:24 AM
   Comments: Keep CVL until off mannitol, then d/c.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2106-01-31 08:15:00 Physician Resident Progress Note
Chief Complaint: 59F with metastatic small cell lung CA with multiple
   hemorrhagic CNS lesions undergoing XRT
   24 Hour Events:
   no major events, had asked RN to attempt small PO feed in afternoon but
   unclear if this happened
   slightly more awake and interactive today
   Subjective: Hungry, denies pain
   Allergies:
   Folic Acid Hives;
   Antibiotics
   Ampicillin 1g IV q6 d2
   (received cipro [**1-26**] through [**1-30**])
   Other medications:
   Dexamethasone 4mg IV q6
   Mannitold 25g IV q12 (last dose this AM)
   Lipitor
   Famotidine
   Dilantin
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-1-31**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 89 (82 - 122) bpm
   BP: 96/82(86){96/22(54) - 150/86(120)} mmHg
   RR: 14 (13 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46 kg (admission): 49.9 kg
   Height: 61 Inch
    CVP: 1 (-2 - 5)mmHg
   Total In:
                                                                  2,558 mL
                                                                    282 mL
   PO:
   TF:
   IVF:
                                                                  2,558 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    900 mL
   Urine:
                                                                  2,675 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                   -618 mL
   Respiratory support
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, oriented to [**Hospital1 54**],
   tangential speech but overall more awake and interactive today
   Labs / Radiology
   313 K/uL
   11.2 g/dL
   155 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.4 mEq/L
   11 mg/dL
   103 mEq/L
   142 mEq/L
   32.5 %
   7.1 K/uL
        [image002.jpg]
   Micro
   [**1-25**] urine E. coli, pan sensitive
   [**1-26**] blood cx NGTD
                             [**2106-1-27**]  01:50 PM
                             [**2106-1-27**]  04:31 PM
                             [**2106-1-28**]  02:37 AM
                             [**2106-1-28**]  08:53 AM
                             [**2106-1-29**]  06:05 AM
                             [**2106-1-29**]  09:51 AM
                             [**2106-1-29**]  04:56 PM
                             [**2106-1-29**]  11:01 PM
                             [**2106-1-30**]  05:45 AM
                             [**2106-1-31**]  04:45 AM
   WBC
   8.2
   8.2
   7.7
   7.1
   Hct
   30.1
   33.1
   31.7
   32.5
   Plt
   [**Telephone/Fax (3) 947**]13
   Cr
   0.4
   0.5
   0.5
   0.4
   TropT
   0.02
   0.02
   0.02
   TCO2
   26
   24
   Glucose
   177
   100
   156
   109
   155
   Other labs: PT / PTT / INR:11.4/27.0/0.9, CK / CKMB /
   Troponin-T:101/5/0.02, ALT / AST:38/38, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:19/10, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   1. Hemorrhagic brain mets, cerebral edema, ?h/o seizure
   Suspect mets from small cell lung cancer. s/p [**1-24**] planned WBI
   treatments, tolerating without initial complications.
   --Target SBP 120-140 (treat with IV lopressor as required to maintain
   in this range), maintain HOB>30 degrees
   --Finish mannitol taper today. Continue steroids. No worsening edema on
   recent CT head.
   --Continue dilantin for seizure ppx, trough therapeutic
 check with
   neuro regarding trough checks. Continue seizure precautions.
   --Consult service recommendations appreciated
   2. Lung mass
   Pathology c/w small cell lung cancer.
   Oncology following, may not be chemo candidate given poor functional
   status. Palliative care recs appreciated, will need to meet with
   patient
s family.
   3. Stridor
   Resolved. Tx with racemic epi post extubation. Review of CT scan shows
   bulky disease in mediastinum with tracheal narrowing. Maintaining
   adequate O2 sats.
   4. Elevated cardiac enzymes at admission
   Elevated at admission, trended down. Most likely demand ischemia,
   NSTEMI possible. No antiplatelet/anticoagulation given cerebral mets.
   TWIs on EKG [**1-29**] be cerebral T
s, also consider evolving changes
   secondary to recent myocardial ischemia.
   Continue beta blocker as BP tolerates, continue statin. Not a candidate
   for PCI or surgery.
   5. UTI
   D/C foley this afternoon post mannitol if possible. On ampicillin, can
   change to amoxicillin when able to take PO medications. Has already
   received 5 days of abx to which E coli was sensitive. Would complete
   14d course of abx for catheter associated UTI
   6. DM
   Continue insulin sliding scale, keep glucose<150
   ICU Care
   Nutrition:  trial of PO today, if inadequate intake may need enteral
   feeding tube
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-1-28**] 01:[**Street Address(2) 951**] PIV today and d/c central line
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 blocker
   VAP:  n/a
   Communication:  with family
   Code status: Full code
   Disposition:Transfer to floor

2106-01-31 09:47:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Did well yesterday.  Mental status continues to improve.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Folic Acid
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-1-29**] 12:00 AM
   Ampicillin - [**2106-1-31**] 06:05 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-1-31**] 08:00 AM
   Other medications:
   lipitor, decadron 4 mg q6h, dilantin 100 mg q8h, insulin sliding scale,
   mannitol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-31**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 100 (82 - 122) bpm
   BP: 119/66(78){96/22(54) - 150/86(120)} mmHg
   RR: 18 (13 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46 kg (admission): 49.9 kg
   Height: 61 Inch
   CVP: 1 (-2 - 5)mmHg
   Total In:
                                                                  2,558 mL
                                                                    346 mL
   PO:
   TF:
   IVF:
                                                                  2,558 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                  1,150 mL
   Urine:
                                                                  2,675 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                   -804 mL
   Respiratory support
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: right foot cool compared to left. Pulses present.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.2 g/dL
   313 K/uL
   155 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.4 mEq/L
   11 mg/dL
   103 mEq/L
   142 mEq/L
   32.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2106-1-27**]  01:50 PM
                             [**2106-1-27**]  04:31 PM
                             [**2106-1-28**]  02:37 AM
                             [**2106-1-28**]  08:53 AM
                             [**2106-1-29**]  06:05 AM
                             [**2106-1-29**]  09:51 AM
                             [**2106-1-29**]  04:56 PM
                             [**2106-1-29**]  11:01 PM
                             [**2106-1-30**]  05:45 AM
                             [**2106-1-31**]  04:45 AM
   WBC
   8.2
   8.2
   7.7
   7.1
   Hct
   30.1
   33.1
   31.7
   32.5
   Plt
   [**Telephone/Fax (3) 947**]13
   Cr
   0.4
   0.5
   0.5
   0.4
   TropT
   0.02
   0.02
   0.02
   TCO2
   26
   24
   Glucose
   177
   100
   156
   109
   155
   Other labs: PT / PTT / INR:11.4/27.0/0.9, CK / CKMB /
   Troponin-T:101/5/0.02, ALT / AST:38/38, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:19/10, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   59 y/o F with newly diagnosed extensive small cell lung cancer admitted
   with seizures, now improving from a mental status standpoint.
 URINARY TRACT INFECTION (UTI):  On ampicillin for total 7 days.
 CANCER (MALIGNANT NEOPLASM), SCLC: Will get XRT x 10 treatments (has
   had 2 so far).  Oncology following.
 SUBARACHNOID HEMORRHAGE (SAH)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Cerebral edema:  Continue decadron.  Will receive last dose of mannitol
   today.
 LYMPHADENOPATHY (ENLARGEMENT OF LYMPH NODES, LAD)
 SEIZURE, WITHOUT STATUS EPILEPTICUS:  Cont dilantin.  Neurology
   following.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI): No anticoagulation
   given SAH.  Goal SBP 120-140 due to cerebral edema.TWI on ECG likely
   due to increased ICP.
   .
   ICU Care
   Nutrition:
   Comments: trial of po today given improved mental status.  Attempted
   NGT but she pulled it out.
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2106-1-28**] 01:24 AM
   Comments: d/c CVL and get peripherals now that mannitol is done.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25